US09371320B2
C) 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzamide
To a solution of 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzoic acid (80 mg) and HOBt ammonium salt (52 mg) in DMF (2 mL) was added EDCI hydrochloride (65 mg), and the mixture was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (65 mg).

reactant | 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzoic acid | 80 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=CN2C2CCCC2)NC=2C=C(C(=O)O)C=CC2 | C21H20N4O3
reactant | EDCI hydrochloride | 65 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-((7-cyano-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridin-3-yl)amino)benzamide | 65 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=CN2C2CCCC2)NC=2C=C(C(=O)N)C=CC2 | C21H21N5O2
